US07648979B2
(4-Methanesulfonyl-piperazin-1-yl)-{5-[4-(tetrahydro-pyran-4-yl)-[1,4]diazepane-1-carbonyl]-1H-indol-2-yl}-methanone
The title compound was synthesized in analogy to example 47, from 4-[2-(4-methanesulfonyl-piperazine-1-carbonyl)-1H-indole-5-carbonyl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester and tetrahydro-4H-pyran-4-one. Yellow gum. MS (m/z): 518.3 (M+H)+.

reactant | 4-[2-(4-methanesulfonyl-piperazine-1-carbonyl)-1H-indole-5-carbonyl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CCC1)C(=O)C=1C=C2C=C(NC2=CC1)C(=O)N1CCN(CC1)S(=O)(=O)C | C25H35N5O6S
reactant | tetrahydro-4H-pyran-4-one | O1CCC(CC1)=O | C5H8O2
product | (4-Methanesulfonyl-piperazin-1-yl)-{5-[4-(tetrahydro-pyran-4-yl)-[1,4]diazepane-1-carbonyl]-1H-indol-2-yl}-methanone | CS(=O)(=O)N1CCN(CC1)C(=O)C=1NC2=CC=C(C=C2C1)C(=O)N1CCN(CCC1)C1CCOCC1 | C25H35N5O5S
